US09289430B2
3-(3-(2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-(2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoate (150 mg, 0.22 mmol, 1.00 equiv) in dichloromethane (4 mL), and trifluoroacetic acid (2 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 85.3 mg (62%) of a white solid. 1H-NMR (300 MHz, DMSO, ppm): δ 11.70(s, 1H), 11.44(s, 1H), 8.41(m, 2H), 7.91(s, 1H), 7.78(m, 1H), 7.68(m, 1H), 7.62(m, 1H), 7.58(m, 3H), 7.40(m, 1H), 7.23(m, 1H), 6.92(s, 1H), 3.86(s, 2H), 3.36(m, 4H), 2.62(m, 2H), 2.29(m, 6H), 1.60(m, 6H). MS (ES, m/z): 612 [M+H]+.

reactant | tert-butyl 3-(3-(2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoate | 0.22 mmol, 150 mg, 1.00 equiv | CC=1C=C(C=CC1C)N1N=C(C=C1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C38H45N5O4S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 3-(3-(2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-ylcarbamoyl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoic acid | 85.3 mg, 62% | CC=1C=C(C=CC1C)N1N=C(C=C1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1 | C34H37N5O4S
